US07365066B2
3-Methanesulfonyl-pyridine
To a solution of 3-bromopyridine (20 g, 127 mmol) in THF (200 ml) at room temperature is added a solution of 2M isopropylmagnesium chloride in THF (64 ml, 127 mmol). The resulting mixture is stirred for 2 hours, treated with triethylamine (20 ml), immediately followed by methanesulfonylchloride (10 ml, 127 mmol) and the resulting mixture stirred for 18 hours at room temperature. The mixture is diluted with water (200 ml) and extracted with EtOAc (3×100 ml). The mixture is concentrated in vacuo and purified on Silica gel (eluting with 50/50 Hexane/EtOAc). 1H-NMR (CDCl3) δ: 9.17 (s, 1H), 8.90 (d, 1H), 8.25 (dd, 1H), 7.55 (m, 1H), 3.12 (s, 3H).

reactant | 3-bromopyridine | 127 mmol, 20 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | isopropylmagnesium chloride | 2M | C(C)(C)[Mg]Cl
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 127 mmol, 10 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | THF | 127 mmol, 64 ml | C1CCOC1 | C4H8O
product | 3-Methanesulfonyl-pyridine | CS(=O)(=O)C=1C=NC=CC1 | C6H7NO2S
